US05420135
4 - (2 -Methylphenylamino)-3 -nitroquinoline
4-Chloro-3-nitroquinoline (J. Med. Chem. 1974, 17, 245) (2.08 g, 0.01 mol) and 2-methylaniline (2.14 g, 0.02 mol) were dissolved in THF (50 ml) and the mixture stirred at reflux for 16 hours, during which time a pale yellow solid was deposited. After cooling, the solvent was evaporated and the residue dissolved in 2M HCl (80 ml). The acidic solution was extracted with CHCl3 (×3) and the chloroform solution washed with aqueous NaHCO3 and water. Drying and evaporation of the chloroform gave an orange-yellow solid which was crystallised from absolute ethanol to give the title compound (1.2 g, 43%) as orange needles, m.p. 137°-138°.

reactant | 4-Chloro-3-nitroquinoline | 0.01 mol, 2.08 g | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | 2-methylaniline | 0.02 mol, 2.14 g | CC1=C(N)C=CC=C1 | C7H9N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4 - (2 -Methylphenylamino)-3 -nitroquinoline | 1.2 g, 43% | CC1=C(C=CC=C1)NC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C16H13N3O2
